US08466167B2
To a solution of 8-methyl-2-vinylbenzo[f][1,7]naphthyridin-5-amine (from the previous step) in ethyl acetate/methanol (1:4, 0.05 M) was added 10% wt palladium on carbon (0.2 eq.). Hydrogen gas was introduced via a balloon, and the reaction was stirred for 3 hours. The mixture was filtered through a pad of celite and washed with dichloromethane. The filtrate was concentrated en vaccuo and purified by a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give 2-ethyl-8-methylbenzo[f][1,7]naphthyridin-5-amine as an off white solid. 1H NMR (CDCl3): δ 8.61 (d, 1H), 8.42 (d, 1H), 8.10 (d, 1H), 7.44 (s, 1H), 7.12 (dd, 1H), 6.00 (bs, 2H), 2.84 (q, 2H), 2.45 (s, 3H), 1.33 (t, 3H). LRMS [M+H]=238.1.

reactant | 8-methyl-2-vinylbenzo[f][1,7]naphthyridin-5-amine | CC1=CC=2C(=C3C=C(C=NC3=C(N2)N)C=C)C=C1 | C15H13N3
reactant | Hydrogen | [H][H] | H2
solvent | ethyl acetate methanol | 0.05 M | C(C)(=O)OCC.CO
catalyst | palladium on carbon | 0.2 eq. | [Pd] | Pd
product | 2-ethyl-8-methylbenzo[f][1,7]naphthyridin-5-amine | C(C)C=1C=NC2=C(N=C3C(=C2C1)C=CC(=C3)C)N | C15H15N3
